* CDL/LVS-oriented netlist
.SUBCKT fdprbq_x1 Q CK D RD VDD VSS
XFDPRBQ_ck_P0 FDPRBQ_ck_b CK VDD VDD pmos w=2u l=100n
XFDPRBQ_ck_N0 FDPRBQ_ck_b CK VSS VSS nmos w=1u l=100n
XFDPRBQ_m_in_P FDPRBQ_m_n1 CK D VDD pmos w=2u l=100n
XFDPRBQ_m_in_N FDPRBQ_m_n1 FDPRBQ_ck_b D VSS nmos w=1u l=100n
XFDPRBQ_m_i1_P0 FDPRBQ_m_n2 FDPRBQ_m_n1 VDD VDD pmos w=2u l=100n
XFDPRBQ_m_i1_N0 FDPRBQ_m_n2 FDPRBQ_m_n1 VSS VSS nmos w=1u l=100n
XFDPRBQ_m_i2_P0 FDPRBQ_m_n1 FDPRBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_m_i2_N0 FDPRBQ_m_n1 FDPRBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_m_fb_P FDPRBQ_m_n1 FDPRBQ_ck_b FDPRBQ_m_n2 VDD pmos w=2u l=100n
XFDPRBQ_m_fb_N FDPRBQ_m_n1 CK FDPRBQ_m_n2 VSS nmos w=1u l=100n
XFDPRBQ_m_o_P0 FDPRBQ_qm FDPRBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_m_o_N0 FDPRBQ_qm FDPRBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_s_in_P FDPRBQ_s_n1 FDPRBQ_ck_b FDPRBQ_qm VDD pmos w=2u l=100n
XFDPRBQ_s_in_N FDPRBQ_s_n1 CK FDPRBQ_qm VSS nmos w=1u l=100n
XFDPRBQ_s_i1_P0 FDPRBQ_s_n2 FDPRBQ_s_n1 VDD VDD pmos w=2u l=100n
XFDPRBQ_s_i1_N0 FDPRBQ_s_n2 FDPRBQ_s_n1 VSS VSS nmos w=1u l=100n
XFDPRBQ_s_i2_P0 FDPRBQ_s_n1 FDPRBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_s_i2_N0 FDPRBQ_s_n1 FDPRBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_s_fb_P FDPRBQ_s_n1 CK FDPRBQ_s_n2 VDD pmos w=2u l=100n
XFDPRBQ_s_fb_N FDPRBQ_s_n1 FDPRBQ_ck_b FDPRBQ_s_n2 VSS nmos w=1u l=100n
XFDPRBQ_s_o_P0 Q FDPRBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_s_o_N0 Q FDPRBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_rdi_P0 FDPRBQ_rd_b RD VDD VDD pmos w=2u l=100n
XFDPRBQ_rdi_N0 FDPRBQ_rd_b RD VSS VSS nmos w=1u l=100n
XFDPRBQ_rcl Q FDPRBQ_rd_b VSS VSS nmos w=1u l=100n
.ENDS fdprbq_x1
